US05362906
Step 4: [1-Hydroxy-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonic acid
To a stirred solution of diethyl [1-hydroxy-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonate (37 mg, 0.0993 mmol) and 2,4,6-collidine (0.052 ml, 0.397 mmol) in dichloromethane (3 ml) under argon at 0° C., was added trimethylsilyl bromide (0.052 ml, 0.397 mmol) and the resulting mixture stirred at 0° C. for 30 min and then at r.t. for 4 hr. The resulting white suspension was diluted with toluene (10 ml) and the solvent evaporated in vacuo. The resulting white solid was dissolved in ethylacetate and water and the pH was adjusted to 3 by the addition of 1M HCl solution. The organic layer was separated and dried (MgSO4) and evaporated to afford a clear oil. Addition of acetonitrile 2 ml precipitated the title compound as an off white solid which was removed by filtration and dried in vacuo.

reactant | diethyl [1-hydroxy-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonate | 0.0993 mmol, 37 mg | OC(C\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)P(OCC)(OCC)=O | C20H37O4P
reactant | 2,4,6-collidine | 0.397 mmol, 0.052 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | trimethylsilyl bromide | 0.397 mmol, 0.052 ml | C[Si](C)(C)Br | C3H9BrSi
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | [1-Hydroxy-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonic acid | OC(C\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)P(O)(O)=O | C16H29O4P
